US07981896B2
2-Acetyloctahydronaphthalen-1-one.
Boron trifluoride-acetic acid complex (5.2 mL, 37.5 mmol) was cooled to 0° C. trans-1-Decalone (3.82 g, 25 mmol) in acetic anhydride (4.7 mL, 50 mmol) was added, and the reaction was stirred at room temperature for 3.5 hours. Saturated ammonium chloride solution (95 mL) was added, and the mixture was heated to 80° C. for 45 minutes. After cooling to room temperature, the mixture was extracted with ethyl acetate. The extracts were dried over MgSO4 and concentrated. SiO2 chromatography with 10-40% ethyl acetate/hexanes gave 0.96 g of the desired product.

reactant | trans-1-Decalone | 25 mmol, 3.82 g | C1CC[C@H]2[C@H](C1)CCCC2=O | C10H16O
reactant | acetic anhydride | 50 mmol, 4.7 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium chloride | 95 mL | [Cl-].[NH4+]
product | 2-Acetyloctahydronaphthalen-1-one | 0.96 g | C(C)(=O)C1C(C2CCCCC2CC1)=O | C12H18O2
